US04450164
8-Benzyloxy-2-cyanomethyl-imidazo[1,2-a]pyridine
A mixture of 1.79 g 8-benzyloxy-2-chloromethylimidazo[1,2-a]pyridine, 0.90 g sodium cyanide, and 15 ml dimethylformamide was heated on a steam bath for 1.5 hr. The mixture was cooled and evaporated in vacuo, the residue was taken up in chloroform (50 ml) and filtered through a pad of silica gel, the filtrate was evaporated in vacuo, and the residue recrystallized from acetonitrile to give the title compound (m.p. 148°-150°C.).

reactant | 8-benzyloxy-2-chloromethylimidazo[1,2-a]pyridine | 1.79 g | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C=C(N2)CCl | C15H13ClN2O
reactant | sodium cyanide | 0.90 g | [C-]#N.[Na+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 8-Benzyloxy-2-cyanomethyl-imidazo[1,2-a]pyridine | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C=C(N2)CC#N | C16H13N3O
